US05232917
3α-N-methyl-dihydronicotinoyloxy-5α-pregnan-20-one
To an ice cold solution of the 3α-N-methyl-nicotinoyloxy-5α-pregnan-20-one iodide salt (1.01 g, 562 g/m, 1.8 mmol) in 150 mL of aqueous methanol (100 ml methanol and 50 ml water, deaerated) was added sodium bicarbonate (620 mg, 84 g/m, 7.4 mmol) and sodium dithionite (1.3 g, 174 g/m, 7.4 mmol). This mixture was stirred at 0° C. for 1 h. The reaction mixture was poured into 500 mL of water and extracted several times with chloroform. The combined organic layers were washed with potassium carbonate and concentrated. The crude product was filtered through a bed of silica gel using hexane/ethyl acetate (5:1) elution. The product was recovered in the initial fractions to give 180 mg (439 g/m, 0.4 mmol, 22%).

reactant | 3α-N-methyl-nicotinoyloxy-5α-pregnan-20-one iodide salt | 1.8 mmol, 1.01 g | [I-].CN1CC(C(=O)O[C@H]2C[C@@H]3CC[C@H]4[C@@H]5CC[C@H](C(C)=O)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)=CC=C1
reactant | sodium bicarbonate | 7.4 mmol, 620 mg | C([O-])(O)=O.[Na+]
reactant | sodium dithionite | 7.4 mmol, 1.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 500 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | 3α-N-methyl-dihydronicotinoyloxy-5α-pregnan-20-one | CN1CC(C(=O)O[C@H]2C[C@@H]3CC[C@H]4[C@@H]5CC[C@H](C(C)=O)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)C=CC1 | C28H43NO3
